US04099000
A mixture of p-methoxybenzyl glycinate hydrochloride (23.2 g., 0.1 mole), H2O (50 ml.), and EtOAc (150 ml.) is stirred vigorously with ice-bath cooling while an ice-cold, saturated aqueous solution of K2CO3 (25 ml.) is added. The aqueous phase is separated and extracted with more EtOAc (2 × 50 ml.). The combined EtOAc solution is dried with MgSO4, filtered, evaporated in vacuo, and stripped with PhH to provide p-methoxybenzyl glycinate (17.4 g.) as a pale yellow liquid.

reactant | p-methoxybenzyl glycinate hydrochloride | 0.1 mole, 23.2 g | Cl.NCC(=O)OCC1=CC=C(C=C1)OC
reactant | H2O | 50 ml | O | H2O
reactant | K2CO3 | 25 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
product | p-methoxybenzyl glycinate | 17.4 g | NCC(=O)OCC1=CC=C(C=C1)OC | C10H13NO3
